US05658903
f) 1-(4-Piperidinyl)-4-(4-fluorophenyl)-5-(2-anilino-4-pyridinyl)imidazole
To 1-(1-t-butoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-(2-anilino-4-pyridinyl)imidazole (175 mg, 0.34 mmol) was added a cooled solution of TFA (12 mL) at -10° C. The reaction mixture was allowed to warm to ambient temperature and stirred at this temperature for 0.5 h. The solvent was evaporated under reduced pressure and the residue was dissoved in H2O (10 mL) to which 3N HCl (0.5 mL) was added. The acidic solution was extracted twice with EtOAc and made basic with 50% NaOH and extracted three times with EtOAc. The combined organic extracts were washed with brine, dried (MgSO4), filtered and evaporated under reduced pressure to afford the title compound as a white solid; 0.70 g (50%): ESMS m/z=414 (M+ +H)

reactant | 1-(1-t-butoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-(2-anilino-4-pyridinyl)imidazole | 0.34 mmol, 175 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=NC(=C1C1=CC(=NC=C1)NC1=CC=CC=C1)C1=CC=C(C=C1)F | C30H32FN5O2
reactant | TFA | 12 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(4-Piperidinyl)-4-(4-fluorophenyl)-5-(2-anilino-4-pyridinyl)imidazole | N1CCC(CC1)N1C=NC(=C1C1=CC(=NC=C1)NC1=CC=CC=C1)C1=CC=C(C=C1)F | C25H24FN5
